US05344937
To a solution of N-carbobenzyloxy-trans-4-hydroxy-L-proline methyl ester (10.0 g, 35.8 mmol) in 200 mL of anhydrous THF under N2 was added triphenylphosphine (10.6 g, 39.4 mmol) and 4-cyanophenol (4.7 g, 39.4 mmol). This solution was cooled to 0° C. and then treated with diethylazodicarboxylate (6.3 mL, 39.4 mmol), added dropwise over 30 minutes. The reaction was warmed to room temperature and stirred for 2 days. The solvent was removed in vacuo, and the residue chromatographed (SiO2, 30% ethyl acetate/hexanes) to provide 12.1 g (89%) of N-carbobenzyloxy-4-(cis)-(4-cyanophenoxy)-L-proline methyl ester as a colorless oil. (MS).

reactant | N-carbobenzyloxy-trans-4-hydroxy-L-proline methyl ester | 35.8 mmol, 10.0 g | COC([C@H]1N(C[C@@H](C1)O)C(=O)OCC1=CC=CC=C1)=O | C14H17NO5
reactant | triphenylphosphine | 39.4 mmol, 10.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-cyanophenol | 39.4 mmol, 4.7 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | diethylazodicarboxylate | 39.4 mmol, 6.3 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | N-carbobenzyloxy-4-(cis)-(4-cyanophenoxy)-L-proline methyl ester | 12.1 g, 89% | COC([C@H]1N(C[C@H](C1)OC1=CC=C(C=C1)C#N)C(=O)OCC1=CC=CC=C1)=O | C21H20N2O5
